US05998433
b) Synthesis of N,N-dimethyl-[6-[4-(phenoxymethyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(phenoxymethyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.400 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated, and recrystallized from ethanol-diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(phenoxymethyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.400 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)COC2=CC=CC=C2)=O)O1 | C24H26N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-[4-(phenoxymethyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)COC2=CC=CC=C2)=O)O1 | InChI=1S/C24H26N2O3.ClH/c1-25(2)15-22-14-20-12-13-26(16-23(20)29-22)24(27)19-10-8-18(9-11-19)17-28-21-6-4-3-5-7-21;/h3-11,14H,12-13,15-17H2,1-2H3;1H
